US06444190B2
To a cooled solution of LiAlH4 (0.22 mol) in toluene/THF under argon was added (+/−) trans-3-ethoxycarbonyl-4-(4′-fluorophenyl)-N-methyl-piperidine-2,6-dione (0.083 mol) in THF holding the temperature below 15° C. After addition was complete, the reaction was allowed to warm to room temperature. After 30 minutes at room temperature reaction was heated to >40° C. for 2 hr. Reaction was then cooled to <5° C. and toluene (50 ml) was added. Water (9 ml) was then added slowly holding the temperature below 15° C. Additional H2O or aqueous NaOH was used as necessary. The solid inorganic salts were removed by filtration. These solids were washed with additional THF or toluene. The filtered solution was then concentrated to give (+/−) trans-4-(4′-fluorophenyl)-3-hydroxymethyl-N-methylpiperidine in higher yield (but similar impurity profile) as with NaAlH4 as shown by HPLC analysis. The product can be recovered by standard procedures such as trituration with a less polar solvent.

reactant | LiAlH4 | 0.22 mol | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (+/−) trans-3-ethoxycarbonyl-4-(4′-fluorophenyl)-N-methyl-piperidine-2,6-dione | 0.083 mol | C(C)OC(=O)[C@@H]1C(N(C(C[C@H]1C1=CC=C(C=C1)F)=O)C)=O | C15H16FNO4
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | NaOH | [OH-].[Na+]
solvent | toluene THF | C1(=CC=CC=C1)C.C1CCOC1
solvent | THF | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
solvent | Water | 9 ml | O | H2O
product | (+/−) trans-4-(4′-fluorophenyl)-3-hydroxymethyl-N-methylpiperidine | FC1=CC=C(C=C1)[C@H]1[C@@H](CN(CC1)C)CO | C13H18FNO
